US05173484
a) Ethyl 4-aminomethyl-4-hydroxypiperidine-1-carboxylate
13.4 g (72.3 mmol) of ethyl 6-aza-1-oxaspiro[2,5]octane-6-carboxylate (European Patent Application 189,370) are added dropwise to 60 ml of ammonia solution (25%) and the mixture is stirred overnight at room temperature. It is then concentrated and distilled.

reactant | ethyl 6-aza-1-oxaspiro[2,5]octane-6-carboxylate | 72.3 mmol, 13.4 g | O1CC12CCN(CC2)C(=O)OCC | C9H15NO3
reactant | ammonia | 60 ml | N | H3N
product | Ethyl 4-aminomethyl-4-hydroxypiperidine-1-carboxylate | NCC1(CCN(CC1)C(=O)OCC)O | C9H18N2O3
